### PR TITLE
[Merged by Bors] - chore: move and generalize card_fiber_eq_of_mem_range

### PR DESCRIPTION
**Pull request by dupuisf**
This PR moves the lemma `card_fiber_eq_of_mem_range` from `RingTheory/IntegralDomain` to `GroupTheory/Index` which makes far more sense. It also adds the additive version, generalizes to `MonoidHomClass`, and puts it in the `MonoidHom` namespace (instead of root).

Co-authored-by: Yury Kudryashov <urkud@urkud.name>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -614,3 +614,30 @@ theorem index_center_le_pow [Finite (commutatorSet G)] [Group.FG G] :
...
 end Subgroup
+
+namespace MonoidHom
+
+open Finset
+
+variable {G H F : Type*} [Group G] [Fintype G] [Group H] [DecidableEq H] [MonoidHomClass F G H]
+
+@[to_additive]
+theorem card_fiber_of_mem_range (f : F) {x : H} (hx : x ∈ Set.range f) :
```
Comment (urkud) [inline Mathlib/GroupTheory/Index.lean:625]: You don't need the codomain to be a group. I have this code somewhere in the history of leanprover-community/mathlib#17653 (lost to a buggy merge):
```lean
@[to_additive] lemma monoid_hom.card_fiber_eq_of_mem_range {M} [monoid M] [decidable_eq M]
  (f : G →* M) {x y : M} (hx : x ∈ set.range f) (hy : y ∈ set.range f) :
  (univ.filter $ λ g, f g = x).card = (univ.filter $ λ g, f g = y).card :=
begin
  rcases ⟨hx, hy⟩ with ⟨⟨x, rfl⟩, y, rfl⟩,
  rcases mul_left_surjective x y with ⟨y, rfl⟩,
  conv_lhs { rw [← map_univ_equiv (equiv.mul_right y⁻¹), filter_map, card_map] },
  congr' 2 with g,
  simp only [(∘), equiv.to_embedding_apply, equiv.coe_mul_right, map_mul],
  rw [← f.coe_to_hom_units y⁻¹, map_inv, units.mul_inv_eq_iff_eq_mul, f.coe_to_hom_units]
```
Not sure if it depends on other modifications I made in that branch.

Comment (urkud) [reply Mathlib/GroupTheory/Index.lean:625]: UPD: have a look at [this](https://github.com/leanprover-community/mathlib/pull/17653/files#diff-7f1be6b9022b8228482801f42e5005df11252d1a068c3c1c8da0ee85078cc538R2014) section of that PR (`preimage`/`image` lemmas are better fomulated using pointwise smul).

Comment (dupuisf) [reply Mathlib/GroupTheory/Index.lean]: I just ported the above proof to Lean 4. It didn't depend on anything else in that old Lean 3 PR.

**Comment by riccardobrasca** [comment]
Is the PR description accurate? It says "this PR *moves*..." but I only see a new declaration. Anyway LGTM, thanks!

bors d+

**Comment by Ruben-VandeVelde** [comment]
It seems like you may have forgotten the deprecated alias?
